US06967196B1
To a solution of 4-chloro-N-[5-fluoro-2-fluorophenyl]benzenesulfonamide (500 mg, 1.65 mmol), triphenylphosphine (909 mg, 3.47 mmol) and 5S-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2-pentanol (719 mg, 3.30 mmol) in THF (7 mL) was added diisopropylazodicarboxylate (0.682 mL, 3.47 mol) dropwise at 0° C. under nitrogen. The resulting mixture was allowed to warm to 22° C. with stirring. Stirring was continued for a period of 12 h followed by the addition of 15 mL of H2O. The mixture was extracted with ether (3×15 mL). The combined organic extracts were washed with NaHCO3 and sat. brine. The organic phase was dried over Na2SO4, filtered, and concentrated under reduced pressure. Silica gel chromatography (1:5 ethyl acetate:hexanes) of the concentrate afforded 466 mg of 4-chloro-N-[5-fluoro-2-flurophenyl]-N-[(R)-1-methyl-4-[(1,1-dimethylethyl)-dimethylsilyl]oxy)butyl]benzene-sulfonamide as a yellow oil in 56% yield.

reactant | 4-chloro-N-[5-fluoro-2-fluorophenyl]benzenesulfonamide | 1.65 mmol, 500 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)F)F | C12H8ClF2NO2S
reactant | triphenylphosphine | 3.47 mmol, 909 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 3.47 mol, 0.682 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | H2O | 15 mL | O | H2O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | benzene-sulfonamide | 56% yield | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
